US09278978B2
A mixture of tert-butyl-N-{1-[(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-yl)carbamoyl]ethyl}-N-methylcarbamate H2 (150 mg, 0.31 mmol) and potassium hydroxide (1 mol/l solution in MeOH:water=2:1, 3 ml, 3 mmol) is stirred at 60° C. for 2 days. The precipitate is collected and purified by NP chromatography to yield 4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-amine. Yield: 110 mg (89%). HPLC-MS: M+H=406; tR=1.07 min (METHOD—1).

reactant | tert-butyl-N-{1-[(4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-yl)carbamoyl]ethyl}-N-methylcarbamate H2 | 0.31 mmol, 150 mg | C(C)(C)(C)OC(N(C)C(C)C(NC1=NC(=CC(=C1)C=1C2=C(N=CN1)C(=NN2C)C)C#CC=2C=C1C=CN=C(C1=CC2)C)=O)=O.[H][H]
reactant | potassium hydroxide | 3 mmol, 1 mol/l, 3 ml | [OH-].[K+]
product | 4-{1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-yl}-6-[2-(1-methylisoquinolin-6-yl)ethynyl]pyridin-2-amine | CN1N=C(C=2N=CN=C(C21)C2=CC(=NC(=C2)C#CC=2C=C1C=CN=C(C1=CC2)C)N)C | C24H19N7
